US06103750
To a solution wherein 6-amino-5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran (2.41 g, 10.0 mmol) is in acetic acid (30 ml), a nitrosylsulfuric acid solution prepared from sodium nitrite (760 mg, 11.0 mmol) and concentrated sulfuric acid (5.5 ml) was added dropwise at 10 to 15° C. over a period of about 10 minutes. The reaction solution was added dropwise to a mixture consisting of sodium acetate (7 g) and a 1:1 mixture (1.45 g) of methyl 2,3-dicyanopropionate and ethyl 2,3-dicyanopropionate, and 50 ml of water under vigorous stirring at room temperature and further stirred for 30 minutes. After reaction solution was extracted with chloroform, the organic layer was washed with a saturated sodium hydrogencarbonate solution, then dried over anhydrous magnesium sulfate and concentrated under reduced pressure until the amount of the solution became about 20 ml. 5 ml of ammonia water was added to the resulting solution and stirred at room temperature for 2 hours. After water was poured into the solution, the solution was extracted with chloroform, the organic layer was washed with a 1N hydrochloric acid solution and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography to give 1.0 g of 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-3-cyanopyrazole.

reactant | 6-amino-5-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran | 10.0 mmol, 2.41 g | NC1=C(C=C2C(OC(C2=C1)(F)F)(F)F)Cl | C8H4ClF4NO
reactant | nitrosylsulfuric acid | N(=O)OS(O)(=O)=O | HNO5S
reactant | sodium nitrite | 11.0 mmol, 760 mg | N(=O)[O-].[Na+]
reactant | sulfuric acid | 5.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | 7 g | C(C)(=O)[O-].[Na+]
reactant | methyl 2,3-dicyanopropionate | 1.45 g | C(#N)C(C(=O)OC)CC#N | C6H6N2O2
reactant | ethyl 2,3-dicyanopropionate | C(#N)C(C(=O)OCC)CC#N | C7H8N2O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
product | 5-amino-1-(6-chloro-1,1,3,3-tetrafluoro-1,3-dihydroisobenzofuran-5-yl)-3-cyanopyrazole | 1.0 g | NC1=CC(=NN1C=1C=C2C(OC(C2=CC1Cl)(F)F)(F)F)C#N | C12H5ClF4N4O
